US04954501
6-[3-nitro-4-[4-(2-pyrimidyl)-piperazin-1-yl]phenyl]-4,5-dihydro-5-methyl-3(2H)-pyridazinone
3.0 g (11.2 mmol) of 6-(4-chloro-3-nitro-phenyl)-4,5-dihydro-5-methyl-3(2H)-pyridazinone, 3.7 g (22.4 mmol) of 1-(2-pyrimidyl)-piperazine and 0.9 g (11.2 mmol) of pyridine are boiled under reflux in 50 ml of dioxane. A further 1.9 g (11.6 mmol) of 1-(2-pyrimidyl)-piperazine is added after 6 hours and the reaction mixture is boiled for a further 4 hours. When the reaction mixture has cooled, it is poured out on 300 ml of ice water and the precipitated solid is suction filtered, washed with a small quantity of diethyl ether and recrystallized from 40 ml of 2-methoxyethanol. 3.1 g (70%) of orange red crystals, m.p. 232° to 233° C., are obtained.

reactant | 6-(4-chloro-3-nitro-phenyl)-4,5-dihydro-5-methyl-3(2H)-pyridazinone | 11.2 mmol, 3.0 g | ClC1=C(C=C(C=C1)C=1C(CC(NN1)=O)C)[N+](=O)[O-] | C11H10ClN3O3
reactant | 1-(2-pyrimidyl)-piperazine | 22.4 mmol, 3.7 g | N1=C(N=CC=C1)N1CCNCC1 | C8H12N4
reactant | pyridine | 11.2 mmol, 0.9 g | N1=CC=CC=C1 | C5H5N
reactant | 1-(2-pyrimidyl)-piperazine | 11.6 mmol, 1.9 g | N1=C(N=CC=C1)N1CCNCC1 | C8H12N4
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 6-[3-nitro-4-[4-(2-pyrimidyl)-piperazin-1-yl]phenyl]-4,5-dihydro-5-methyl-3(2H)-pyridazinone | 3.1 g, 70% | [N+](=O)([O-])C=1C=C(C=CC1N1CCN(CC1)C1=NC=CC=N1)C=1C(CC(NN1)=O)C | C19H21N7O3
